US09447097B2
a) 1-(2-(Ethoxymethyl)-4-(tritylamino)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol
4-Amino-2-(ethoxymethyl)-α,α-dimethyl-1H-Imidazo[4,5-c]quinoline-1-ethanol (CAN 144875-48-9, 1.6 g, 5.09 mmol) was combined with acetonitrile (60 mL) to give a white suspension. Then triethylamine (1.77 mL, 12.7 mmol) and trityl chloride (1.7 g, 6.11 mmol) were added under Argon with stirring. The reaction mixture was irradiated in a microwave reactor at 100° C. for 30 minutes. Upon stirring the mixture the product precipitated and was isolated by filtration at 0° C., washed with cold acetonitrile and dried to yield the title compound (2.37 g, 83%) as white solid; MS (ESI): 557.5(MH+).

reactant | 4-Amino-2-(ethoxymethyl)-α,α-dimethyl-1H-Imidazo[4,5-c]quinoline-1-ethanol | 5.09 mmol, 1.6 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(O)(C)C)COCC | C17H22N4O2
reactant | triethylamine | 12.7 mmol, 1.77 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 6.11 mmol, 1.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 1-(2-(Ethoxymethyl)-4-(tritylamino)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 2.37 g, 83% | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N1)CC(C)(O)C | C36H36N4O2
